US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine but substituting benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate and making non-critical variations provided the title compound as an oil: 1H NMR (400 MHz, CDCl3) δ) 7.49, 7.35-7.26, 5.38, 4.68-4.53, 4.11, 3.88, 3.80, 3.74, 3.46, 3.24-3.16, 2.93, 2.70, 2.62, 2.29, 2.00, 1.33-1.24, 1.15; IR (liq.) 2971 (s), 2936 (s), 2874, 2359 (w), 2342 (w), 1566 (s), 1552 (s), 1500 (s), 1470 (s), 1396 (s), 1200 (s), 1129 (s), 1102 (s), 1046 (s), 868, cm−1; HRMS (FAB) calcd for C20H25Cl2FN4O+H 427.1468, found 427.1474.

reactant | 5-(2,4-dichlorophenyl)-N-[(cis)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCC)CC | C20H26Cl2N4O
reactant | benzyl (3R,4S)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-(2-fluoroethoxy)pyrrolidine-1-carboxylate | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OCCF)C(=O)OCC1=CC=CC=C1)CC | C28H31Cl2FN4O3
product | 5-(2,4-dichlorophenyl)-3,6-diethyl-N-[(3R,4S)-4-(2-fluoroethoxy)pyrrolidin-3-yl]pyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CNC[C@@H]1OCCF)CC | C20H25Cl2FN4O
